US06982278B2
4-[2-(4-Benzyloxy-2-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole
A solution of 4-benzyloxy-2-propylphenol (1.00 g, 4.13 mmol), 2-(5-methyl-2-phenyloxazol-4-yl)ethanol (Japan Tobacco Inc WO 9518125) (0.84 g, 4.13 mmol), and triphenylphosphine (1.41 g, 5.37 mmol) in THF (17 mL) was treated dropwise at ambient temperature with diisopropyl azodicarboxylate (0.96 mL, 5.0 mmol). After 18 h, the reaction mixture was concentrated in vacuo. The residue was diluted with EtOAc, washed with brine (40 mL), dried (Na2SO4), and concentrated. The crude product was purified by radial chromatography using 10-15% ethyl acetate in hexanes to give the product (1.2 g, 68%). 1H. NMR (400 MHz, CDCl3) δ 7.98 (dd, J=7.8, 2.4 Hz, 2H), 7.45-7.30 (m, 8H), 6.78-6.69 (m, 3H), 4.99 (s, 2H), 4.19 (t, J=6.6 Hz, 2H), 2.96 (t, J=6.4 Hz, 2H), 2.50 (t, J=7.6 Hz, 2H), 2.38 (s, 3H), 1.53 (q, J=7 Hz, 2H), 0.88 (t, J=7 Hz, 3H); MS (FIA) m/e 428 (M+1).

reactant | 4-benzyloxy-2-propylphenol | 4.13 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)CCC | C16H18O2
reactant | 2-(5-methyl-2-phenyloxazol-4-yl)ethanol | 4.13 mmol, 0.84 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | triphenylphosphine | 5.37 mmol, 1.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 5.0 mmol, 0.96 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 4-[2-(4-Benzyloxy-2-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole | 1.2 g, 68% | C(C1=CC=CC=C1)OC1=CC(=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)CCC | C28H29NO3
